US08106204B2
b) 2-Acetylamino-6-chloro-4-phenylquinoline
A mixture of 0.1 g of 2-amino-6-chloro-4-phenylquinoline and 8 ml of acetic anhydride was stirred at 70° C. for 1 hour, the solvent was removed by distillation, the solid residue was stirred with water, and the crystalline substance was filtered off.

reactant | 2-amino-6-chloro-4-phenylquinoline | 0.1 g | NC1=NC2=CC=C(C=C2C(=C1)C1=CC=CC=C1)Cl | C15H11ClN2
reactant | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetylamino-6-chloro-4-phenylquinoline | C(C)(=O)NC1=NC2=CC=C(C=C2C(=C1)C1=CC=CC=C1)Cl | C17H13ClN2O
